US06635640B2
4-(2-Carboxyethyl)-2-methyl-5-(2-oxo-4-pyridin-4-yl-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester
4-Pyridin-4-yl-1,3-dihydroindol-2-one was condensed with 4-(2-carboxyethyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester to give the title compound.

reactant | 4-Pyridin-4-yl-1,3-dihydroindol-2-one | N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 4-(2-carboxyethyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC(=C1CCC(=O)O)C=O)C | C12H15NO5
product | 4-(2-Carboxyethyl)-2-methyl-5-(2-oxo-4-pyridin-4-yl-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=C(NC(=C1CCC(=O)O)C=C1C(NC2=CC=CC(=C12)C1=CC=NC=C1)=O)C | C25H23N3O5
